US06194409B1
107c. 2-(R)-Methanesulfonylamino-3-phenyl-propionic acid
A mixture of 2-(R)-methanesulfonylamino-3-phenyl-propionic acid methyl ester (0.90 g) and 0.10 g of LiOH in 10 mL of methanol and 1 mL of water was stirred for 16 h at ambient temperature. KHSO4 was added, the volatiles were pumped off followed by addition of water, extraction with dichloromethane and removal of the solvent. Yield: 0.70 g (83%) of the title compound as a colorless oil. (−)-APCI-MS: 242 ([M-H]−).

reactant | 2-(R)-methanesulfonylamino-3-phenyl-propionic acid methyl ester | 0.90 g | COC([C@@H](CC1=CC=CC=C1)NS(=O)(=O)C)=O | C11H15NO4S
reactant | LiOH | 0.10 g | [Li+].[OH-]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 2-(R)-Methanesulfonylamino-3-phenyl-propionic acid | Yield: 0.70 g, 83% | CS(=O)(=O)N[C@@H](C(=O)O)CC1=CC=CC=C1 | C10H13NO4S
